US04107170
A laboratory pressure bottle is charged with 92 ml. of 37% hydrochloric acid, cooled to 0°-5° C., and a mixture consisting of 79.0 g. (0.2 mole) of dl-3-(β-hydroxyphenethyl)-2-iminothiazolidine-p-toluene sulfonate and 40.4 g. (0.69 mole) of sodium chloride is added. The mixture is cooled to 0°-5° C., and 89.2 g. of 97% sulfuric acid (0.875 mole) is added. The pressure bottle is closed, and the contents heated at 50° C. for 20 hours. The reaction mixture is cooled and added to a mixture of 200 ml. water and 250 ml. of toluene. The mixture is agitated at 20°-30° C. and 50% sodium hydroxide solution is added thereto dropwise to adjust the pH to 6. The mixture is heated to 50°-55° C., 40.0 g. of anhydrous potassium carbonate is added quickly, and the mixture is stirred at 50°-55° C. for 2 hours. At the end of this time, an additional 100 ml. of water is added, the lower aqueous layer separated, and the organic layer clarified. The clarified organic layer is treated with a solution of isopropanolic hydrogen chloride below 40° C. to the point where Congo Red test paper changes from red to blue. The reaction mixture is then cooled to 10° C., the precipitate is separated by filtration, and filter cake washed with 100 ml. of ambient temperature isopropanol. The product is air dried to constant weight to obtain 44.4 g. (92.5% yield) of dl tetramisole hydrochloride, compound VII. The product contains less than 0.1% of the styryl impurity, VIII.

reactant | hydrochloric acid | Cl | ClH
reactant | 3-(β-hydroxyphenethyl)-2-iminothiazolidine p-toluene sulfonate | OC(CN1C(SCC1)=N)C1=CC=CC=C1.CC=1C=CC(=CC1)S(=O)(=O)O
reactant | sodium chloride | 0.69 mole | [Cl-].[Na+]
reactant | sulfuric acid | 0.875 mole | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dl tetramisole hydrochloride | 92.5% yield | C1CSC2=NC(CN21)C3=CC=CC=C3.Cl | InChI=1S/C11H12N2S.ClH/c1-2-4-9(5-3-1)10-8-13-6-7-14-11(13)12-10;/h1-5,10H,6-8H2;1H
